US04613609
4-(Acetylamino)benzenebutanol
To a solution of 19.3 g (0.077 mole) of acetic acid, 4-[4-(acetylamino)phenyl]butyl ester in 300 ml of ethanol, add a solution of 21 g potassium carbonate in 300 ml of water. Heat the resulting solution at 55° C. for 4 hrs, following the progress of the reaction by thin-layer chromatography on silica gel (acetonitrile: ammonium hydroxide, 90:10). At the completion of the reaction, filter off any insolubles and remove the ethanol in vacuo. Extract the aqueous residue with 3×300 ml methylene chloride. Wash the combined organic layers with 100 ml water, dry over potassium carbonate, filter and remove the solvent in vacuo. Recrystallize the resulting solid from 140 ml acetonitrile to obtain the title compound.

reactant | acetic acid, 4-[4-(acetylamino)phenyl]butyl ester | 0.077 mole, 19.3 g | C(C)(=O)OCCCCC1=CC=C(C=C1)NC(C)=O | C14H19NO3
reactant | potassium carbonate | 21 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 4-(Acetylamino)benzenebutanol | C(C)(=O)NC1=CC=C(C=C1)CCCCO | C12H17NO2
